US06331548B1
The same reaction was carried out as in Example 23, except for using N-(3,5-dichloropyridin-4-yl)-1-(4-methylpiperazin-1-yl)-1,4-dihydro[1,8]naphtyridin-4-one-3-carboxamide, instead of ethyl 1-(1-benzylpiperidin-3-yl)-1,4-dihydro[1,8]naphtyridin-4-one-3-carboxylate and using methyl chloroformate, instead of benzyl chloroformate, to obtain 85 mg (53%) of the above-identified compound as a colorless crystal.

reactant | N-(3,5-dichloropyridin-4-yl)-1-(4-methylpiperazin-1-yl)-1,4-dihydro[1,8]naphtyridin-4-one-3-carboxamide | ClC=1C=NC=C(C1NC(=O)C1=CN(C2=NC=CC=C2C1=O)N1CCN(CC1)C)Cl | C19H18Cl2N6O2
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
